datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[C:62]1=[CH:63][CH:72]=[CH:71][N:10]=[CH:61]1.C[N:51]1C(=O)[N:52](C)[C:32](=[O:33])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22]1=[O:23]>>C[N:51]1C(=O)[N:52](C)[C:32](=[O:33])[C:21]([CH:20]([N+:10]2=[CH:61][C:62](C)=[CH:63][CH:72]=[CH:71]2)[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[C:22]1[O-:23] 10=20;20,21=21,22;22,23=23"
"CC1(C)C(C)(C)[O:62][B-:11](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)([CH:10](C)C2=CC=CC=C2)[O:12]1.CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C3=CC=CC=C3)[C:24](=[O:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)=[O+:12]1.CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10](C)C2=CC=CC=C2)[C:21]2=[CH:22][C:23](C3=CC=CC=C3)=[C:24]([O-:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
C1=CC=C(C(C2=CC=CC=C2)[C@@H]2CC[N:62]3C4=C(C=CC=C4)[S:72][C:61]3=[N:10]2)C=C1.[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3(C4=CC=CC=C4)[C:31]1([CH2+:20])[Co-3:42]32(C#[O+])(C#[O+])C#[O+]>>[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3(C4=CC=CC=C4)[C:31]1([CH2:20][N+:10]1=[C:61]4[N:62](CC[C@H]1C(C1=CC=CC=C1)C1=CC=CC=C1)C1=C(C=CC=C1)[S:72]4)[Co-3:42]32(C#[O+])(C#[O+])C#[O+] 10=20
"C1=CC=C([C:71]([CH:10]=[N+:11]([O-:12])[O-:62])=[O:72])C=C1.C[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C(C)(C)C)C=C1>>C[N+]1=C([C:22](=[CH:21][CH:20]([CH:10]([N+:11](=[O:12])[O-:62])[C:71](C2=CC=CC=C2)=[O:72])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[O-:23])N(C(C)(C)C)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:11]1=[CH:10][CH:61]=[C:62](C)[NH:12]1.[CH+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>C[C:11]1=[NH+:12][C:62](C)=[CH:61][CH:10]1[CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1 10,11=10,20;12=11,12"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].C[C:61]([CH-:10][C:81]1=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]1)=[O:62]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([CH:10]([C:61](C)=[O:62])[C:81]2=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]2)[C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)=[CH:22]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C1CC[N:12]([C:11]2=[CH:10]CC[C:63]3=[C:62]2[CH:73]=[CH:74][CH:65]=[CH:64]3)C1.C[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23]>>C[C:22](=[CH:21][CH:20]([CH:10]1CC[C:63]2=[C:62]([C:11]1=[N+:12]1CCCC1)[CH:73]=[CH:74][CH:65]=[CH:64]2)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"COC12C3C[CH:20]4C5C1[Fe-2:21]3524(C#[O+])(C#[O+])C#[O+].C[Si:63](C)(C)[O:12][C:11]1=[CH:10]CCCC1>>COC12C3C[CH:20]([CH:10]4CCCC[C:11]4=[O+:12][Si:63](C)(C)C)C4C1[Fe-3:21]342(C#[O+])(C#[O+])C#[O+] 10,11=10,20;12=11,12;20,21=21"
"CC[N+:62](CC)(C1=CC=CC=C1)[BH2-:11][H:10].CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C(C)(C)C)[C:24](=[O:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1>>CC[N+:62](CC)(C1=CC=CC=C1)[BH2:11].CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C[Si](C)(C)C12[C:31]3([CH2+:20])[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]23(C#[O+])(C#[O+])C#[O+].[CH:10](=[N+:11]([O-:12])[O-:62])[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:82]=[CH:83]1>>C[Si](C)(C)C12[C:31]3([CH2:20][CH:10]([N+:11](=[O:12])[O-:62])[C:71]4=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:82]=[CH:83]4)[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]23(C#[O+])(C#[O+])C#[O+] 10,11=10,20;12=11,12"
C1C[O:72][C:61](=[O:62])[N-:10]1.Cl[C:44]1=[CH:43][CH:42]=[C:41]([C+:20]2CC[CH:32]=[CH:31]2)[CH:52]=[CH:53]1>>Cl[C:44]1=[CH:43][CH:42]=[C:41]([C:20]2([N:10]3CC[O:72][C:61]3=[O:62])CC[CH:32]=[CH:31]2)[CH:52]=[CH:53]1 10=20
C1=CC=C([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]2)C=C1.C[C:62]1=[CH:63][CH:72]=[CH:71][N:10]=[CH:61]1>>C[C:62]1=[CH:63][CH:72]=[CH:71][N+:10]([CH:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:41]=[C:42](C2=CC=CC=C2)[C:53]2=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]2)=[CH:61]1 10=20
"CC1=CC=C([B-:11]2([C:10]3=CC=C(C)S3)[O:12]C(C)(C)C(C)(C)[O:62]2)S1.C[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC1=CC=C([B-:11]2=[O+:12]C(C)(C)C(C)(C)[O:62]2)S1.CC1=CC=[C:10]([CH:20]([C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)S1 10,11=10,20;12=11,12"
"C1=CC=C([P+:61](C2=CC=CC=C2)(C2=CC=CC=C2)[CH:10]=[CH:11][O-:12])C=C1.C1C[CH:20]=[CH:21][C:22](=[O:23])C1>>C1=CC=C([P+:61](C2=CC=CC=C2)(C2=CC=CC=C2)[CH:10]([CH:11]=[O:12])[CH:20]2CCC[C:22]([O-:23])=[CH:21]2)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
